US07622583B2
To concentrated HBr (48%, 28.6 mL) was added 5-methyl-3-nitro-pyridin-2-ylamine (5 g, 32.6 mmol) in portions at 0° C. temperature with stirring. The mixture was stirred until the internal temperature reached to −10° C., then bromine was added drop wise. A solution of NaNO2 (7.6 g, 110.84 mmol) in water (11 mL) was added slowly to maintain the reaction mixture temperature below 0° C. The dark mixture (gas evolution was observed) was stirred for 1 h at 0° C. then was carefully treated (slow addition) with a solution of NaOH (12 g, 300 mmol) in water (17 mL) while maintaining the internal temperature below 20° C. The mixture was stirred for an additional 1 h, then was filtered, dried under vacuum for 6 h and purified by recrystalization using 95% EtOH to get pure 2-bromo-5-methyl-3-nitro-pyridine (1.96 g) as yellow solid in 28% first crop yield. ESMS m/z (relative intensity): 217 (M+H)+ (100).

reactant | HBr | 28.6 mL | Br | BrH
reactant | 5-methyl-3-nitro-pyridin-2-ylamine | 32.6 mmol, 5 g | CC=1C=C(C(=NC1)N)[N+](=O)[O-] | C6H7N3O2
reactant | bromine | BrBr | Br2
reactant | NaNO2 | 110.84 mmol, 7.6 g | N(=O)[O-].[Na+]
reactant | NaOH | 300 mmol, 12 g | [OH-].[Na+]
solvent | water | 11 mL | O | H2O
solvent | water | 17 mL | O | H2O
product | 2-bromo-5-methyl-3-nitro-pyridine | 1.96 g | BrC1=NC=C(C=C1[N+](=O)[O-])C | C6H5BrN2O2
